US09108939B2
2-Amino-2-methylpropyl 4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenylcarbamate
2-(4-((4-(4-Aminobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.448 mmol, 200 mg) and 4-nitrophenyl carbonochloridate (0.448 mmol, 90 mg) were combined and stirred in dichloromethane at room temperature for 30 minutes. 2-Amino-2-methylpropan-1-ol (0.896 mmol, 114 μl, 80 mg) was added and the reaction stirred at room temperature overnight. The reaction mixture was concentrated and purified by basic prep-HPLC to give the title compound (94.7 mg).

reactant | 2-(4-((4-(4-Aminobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.448 mmol, 200 mg | NC1=CC=C(CC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1 | C22H24F6N2O
reactant | 4-nitrophenyl carbonochloridate | 0.448 mmol, 90 mg | C(OC1=CC=C(C=C1)[N+](=O)[O-])(=O)Cl | C7H4ClNO4
reactant | 2-Amino-2-methylpropan-1-ol | 0.896 mmol, 114 μl, 80 mg | NC(CO)(C)C | C4H11NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-Amino-2-methylpropyl 4-((1-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperidin-4-yl)methyl)phenylcarbamate | 94.7 mg | FC(C(C(F)(F)F)(O)C1=CC=C(CN2CCC(CC2)CC2=CC=C(C=C2)NC(OCC(C)(C)N)=O)C=C1)(F)F | C27H33F6N3O3
